US04209443
0.29 g of deacetyl-vinblastine is dissolved in 3 ml of acetic anhydride and the solution is allowed to stand for one hour at room temperature. The thus obtained vinblastine is isolated from the reaction mixture in the usual way and then converted into the sulfate salt. 0.28 g of vinblastine sulfate is obtained.

reactant | deacetyl-vinblastine | 0.29 g | CC[C@@]1(C[C@@H]2C[C@@](C3=C(CCN(C2)C1)C4=CC=CC=C4N3)(C5=C(C=C6C(=C5)C78CCN9[C@H]7[C@@](C=CC9)([C@H]([C@@]([C@@H]8N6C)(C(=O)OC)O)O)CC)OC)C(=O)OC)O | C44H56N4O8
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | vinblastine | CC[C@@]1(C[C@H]2C[C@@](C3=C(C=4C=CC=CC4N3)CCN(C2)C1)(C=5C=C6C(=CC5OC)N([C@@H]7[C@]68CCN9[C@H]8[C@@](C=CC9)([C@H]([C@@]7(C(=O)OC)O)OC(=O)C)CC)C)C(=O)OC)O | C46H58N4O9
